US07566736B2
1.46 g (7 mmol) of N1,N1-dimethylbenzene-1,3-diamine dihydrochloride, followed by 9.9 cm3 (71.64 mmol) of triethylamine, are added, at a temperature in the region of 5° C., under an argon atmosphere, to 2.82 g (9.5 mmol) of triphosgene in solution in 150 cm3 of dichloromethane. After stirring for 20 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), to give a residue which is triturated in 50 cm3 of tetrahydrofuran. After filtration, a solution of 3-dimethylaminophenyl isocyanate in approximately 0.14 N tetrahydrofuran is obtained, which solution is used directly in the subsequent step.

reactant | N1,N1-dimethylbenzene-1,3-diamine dihydrochloride | 7 mmol, 1.46 g | Cl.Cl.CN(C1=CC(=CC=C1)N)C
reactant | triethylamine | 71.64 mmol, 9.9 cm3 | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 9.5 mmol, 2.82 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | 3-dimethylaminophenyl isocyanate | CN(C=1C=C(C=CC1)N=C=O)C | C9H10N2O
